US08912188B2
To a solution of methyl 2-[5-(4-fluorophenyl)furan-2-yl]-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (110 mg, 0.26 mmol) in methanol (30 mL) and water (2 mL) was added sodium hydroxide (42 mg, 1.05 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated under vacuum, dissolved in water (30 mL) and adjusted to pH 5 with HCl (3N). The solids were collected by filtration to afford 3-[methyl(propan-2-yl)amino]-2-(5-phenylfuran-2-yl)quinoxaline-6-carboxylic acid as a light yellow solid (19.3 mg, 18%).

reactant | methyl 2-[5-(4-fluorophenyl)furan-2-yl]-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.26 mmol, 110 mg | FC1=CC=C(C=C1)C1=CC=C(O1)C1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)OC | C24H22FN3O3
reactant | sodium hydroxide | 1.05 mmol, 42 mg | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-[methyl(propan-2-yl)amino]-2-(5-phenylfuran-2-yl)quinoxaline-6-carboxylic acid | 19.3 mg, 18% | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C=1OC(=CC1)C1=CC=CC=C1)C(C)C | C23H21N3O3
